US05663368
a) 6-Hydroxy-3-oxo-2,3-Dihydrobenzofuran
To a stirred solution of resorcinol (16.0 kg, 145 moles), chloroacetonitrile (13.2 kg, 175 moles) and ethyl acetate (193 kg, 214 L)under nitrogen was added zinc chloride (11.0 kg, 80.8 moles) and the mixture cooled to 5° C. Hydrogen chloride gas (31.2 kg, 855 moles) was bubbled in at such a rate that the internal temperature did not exceed 30° C. The thick slurry was stirred for an additional 2 hours and the solvent removed by vacuum distillation. Water (80 L) was added and the residual ethyl acetate removed by vacuum distillation. The mixture was heated to 60° C. and stirred for 1 hour. The temperature was cooled to 20° C. and then t-butyl methyl ether (146 L, 113 kg) was added and the mixture stirred for 15 minutes. The aqueous layer was separated and the organic layer washed with water (50 L). The layers were separated and the organic layer removed by vacuum distillation. 95% Ethanol (50 L) was added and the distillation continued until all of the t-butyl methyl ether had been removed. Then 95% ethanol (220 L) was added followed by the addition of sodium acetate (21.8 kg, 266 moles) and the mixture heated to reflux for 1 hour. Additional sodium acetate (3.54 kg, 43.2 moles) was added and the mixture refluxed for an additional 1 hour. The mixture was cooled to 5° C. and the solid collected by centrifugation. This was washed with 95% ethanol (51 L), water (800 L), 95% ethanol (29 L) and hexane (30 L). The material was dried at 40° C. under vacuum to afford the desired product (16.5 kg, 75%) which was used without any further purification.

reactant | resorcinol | 145 moles, 16.0 kg | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | chloroacetonitrile | 175 moles, 13.2 kg | ClCC#N | C2H2ClN
reactant | Hydrogen chloride | 855 moles, 31.2 kg | Cl | ClH
reactant | sodium acetate | 266 moles, 21.8 kg | C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 43.2 moles, 3.54 kg | C(C)(=O)[O-].[Na+]
catalyst | zinc chloride | 80.8 moles, 11.0 kg | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | 214 L, 193 kg | C(C)(=O)OCC | C4H8O2
product | 6-Hydroxy-3-oxo-2,3-Dihydrobenzofuran | 16.5 kg, 75% | OC1=CC2=C(C(CO2)=O)C=C1 | C8H6O3
